US09024032B2
To a 250 mL round-bottom flask were added 2.25 g (5.23 mmol) of the first eluting enantiomer of 1-(3-bromophenyl)-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one, 4.55 g (10.46 mmol) 5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine, and 0.427 g (0.523 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex. The flask was equipped with a condenser, evacuated, and purged with nitrogen. Evacuation was repeated three times and 50 mL THE and 25 mL 1 M aq cesium carbonate were added. The reaction mixture was heated at 85° C. for 15 h. Upon cooling, the organic layer was separated, washed with 10 mL water, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography (silica gel, 0-100% hexane-ethyl acetate gradient, followed by 10% methanol wash) afforded 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one. LCMS (M+H)+ 502.4.

reactant | 1-(3-bromophenyl)-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)C(C)O | C21H20BrNO4
reactant | 5-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 10.46 mmol, 4.55 g | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)B2OC(C(O2)(C)C)(C)C | C22H36BClN2O2Si
product | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)OCC2=CC=C(C=C2)OC)=O)C(C)O | C28H24ClN3O4
